US07192950B2
N-Cyclopentyl-2-[1-(3,4dimethoxy-benzyl)-7,8-dimethoxy-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl]-2-phenyl-acetamide
prepared by reaction of [1-(3,4-dimethoxy-benzyl)-7,8-dimethoxy-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl]-phenyl-acetic acid with cyclopentylamine.

reactant | [1-(3,4-dimethoxy-benzyl)-7,8-dimethoxy-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl]-phenyl-acetic acid | COC=1C=C(CC2N(CCCC3=C2C=C(C(=C3)OC)OC)C(C(=O)O)C3=CC=CC=C3)C=CC1OC | C29H33NO6
reactant | cyclopentylamine | C1(CCCC1)N | C5H11N
product | N-Cyclopentyl-2-[1-(3,4dimethoxy-benzyl)-7,8-dimethoxy-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl]-2-phenyl-acetamide | C1(CCCC1)NC(C(C1=CC=CC=C1)N1C(C2=C(CCC1)C=C(C(=C2)OC)OC)CC2=CC(=C(C=C2)OC)OC)=O | C34H42N2O5
